US06610704B1
Preparation of N1-(4-Methoxybenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethyl]-1,2-benzendiamine
A solution of 1-(4-pyridyl)piperidine-4-methanol (5.87 g, 30.6 mmol), phthalimide (4.59 g, 31.2 mmol), and triphenylphosphine (8.10 g, 30.9 mmol) in 125 mL of THF at −5° C. was treated with a solution of diethyl azodicarboxylate (5.38 g, 30.9 mmol) in THF (40 mL). After 16 h, the mixture was poured into EtOAc and 1 N HCl. The aqueous layer was washed with EtOAc (2×), pH adjusted to 12 by addition of 5 N NaOH, and washed with EtOAc (3×). The combined organic extracts were dried (K2CO3) and concentrated, yielding 8.45 g (86%). The crude material (5.47 g, 17.0 mmol) was then treated with hydrazine hydrate (3.5 mL, 60.0 mmol) in EtOH (50 mL). The mixture was heated at 75° C. for 5 h, cooled, diluted with CH2Cl2 (100 mL), and cooled to 0° C. The solid was removed by filtration; and the filtrate was concentrated, yielding 3.32 g of the title compound which was used without further purification.

reactant | 1-(4-pyridyl)piperidine-4-methanol | 30.6 mmol, 5.87 g | N1=CC=C(C=C1)N1CCC(CC1)CO | C11H16N2O
reactant | phthalimide | 31.2 mmol, 4.59 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 30.9 mmol, 8.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 30.9 mmol, 5.38 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | HCl | 1 N | Cl | ClH
reactant | hydrazine hydrate | 60.0 mmol, 3.5 mL | O.NN
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N1-(4-Methoxybenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethyl]-1,2-benzendiamine | 3.32 g | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NCC2CCN(CC2)C2=CC=NC=C2)C=C1 | C25H28N4O2
